US04006170
200 g of a paste which contains 95 g of 4-aminoanthrone and also contains sulphuric acid, and which is obtained in accordance with the instructions of Example 2, are suspended in 1 l of water and neutralized with concentrated sodium hydroxide solution, and the 4-aminoanthrone is filtered off. It is equally possible to start from the corresponding amount of 4-aminoanthrone which has been obtained according to Example 5 or 6. The 4-aminoanthrone is now stirred into 1 l of water, 150 ml of potassium waterglass (d = 1.25) are added, the mixture is warmed to 60° C and 500 ml of 6% strength hydrogen peroxide solution are added dropwise in the course of 2 hours. This causes the color of the suspension to change from yellow to red. The mixture is stirred for a further 3 hours and is filtered, and the residue is washed until neutral. After drying, 100 g of 1-aminoanthraquinone of 90% purity (89% of theory) are obtained.

reactant | 4-aminoanthrone | 95 g | NC1=CC=CC=2C(C3=CC=CC=C3CC12)=O | C14H11NO
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | water | 1 l | O | H2O
solvent | water | 1 l | O | H2O
product | 1-aminoanthraquinone | 100 g | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO2
